US07750003B2
5-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(2-methylsulfonylpropan-2-yl)pyrimidin-2-yl]-1,3-thiazol-2-amine
The preparation of 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(2-methylsulfonylpropan-2-yl)pyrimidine and tert-butyl N-[(2-methylpropan-2-yl)oxycarbonyl]-N-(5-tributylstannyl-1,3-thiazol-2-yl)carbamate was described earlier.

reactant | 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(2-methylsulfonylpropan-2-yl)pyrimidine | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)C(C)(C)S(=O)(=O)C | C13H20ClN3O3S
reactant | tert-butyl N-[(2-methylpropan-2-yl)oxycarbonyl]-N-(5-tributylstannyl-1,3-thiazol-2-yl)carbamate | CC(C)(C)OC(=O)N(C(OC(C)(C)C)=O)C=1SC(=CN1)[Sn](CCCC)(CCCC)CCCC
product | 5-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(2-methylsulfonylpropan-2-yl)pyrimidin-2-yl]-1,3-thiazol-2-amine | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)C(C)(C)S(=O)(=O)C)C1=CN=C(S1)N | C16H23N5O3S2
